US05760032
3-Aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate (4.0 g) was dissolved in dimethylformamide (20 ml). Phenylacetyl chloride (0.9 ml) and triethylamine (3.2 ml) were added under ice-cooling, and the mixture was stirred at room temperature for 1.5 hours. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with an aqueous citric acid solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated, and the residue was recrystallized from ethyl acetate to give 1.56 g of N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)-2-phenylacetamide.

reactant | 3-Aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate | 4.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.NCC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC)C
reactant | Phenylacetyl chloride | 0.9 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | triethylamine | 3.2 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)-2-phenylacetamide | 1.56 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(CC2=CC=CC=C2)=O)C=CC=C1 | C25H23ClN4O2S
